US08633001B2
Production of (R)-2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinimide
A solution of (R)-diethyl 2-benzyloxycarbonylamino-2-carbamoylsuccinate (200 mg) in dehydrated ethanol (10 mL) was added with sodium ethoxide (41 mg) with ice cooling and stirring, the mixture was stirred at the same temperature for 2 hours, then cold 1 mol/L hydrochloric acid was poured into the mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate/n-hexane to obtain the title compound (149 mg, yield: 85%) as colorless crystals. Optical rotation [α]D28 was −31.8° (c 0.59, ethanol), and optical purity was 99.2% ee.

reactant | (R)-diethyl 2-benzyloxycarbonylamino-2-carbamoylsuccinate | 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@](C(=O)OCC)(CC(=O)OCC)C(N)=O | C17H22N2O7
reactant | sodium ethoxide | 41 mg | [O-]CC.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (R)-2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinimide | 149 mg, yield: 85% | C(C1=CC=CC=C1)OC(=O)N[C@]1(C(=O)NC(C1)=O)C(=O)OCC | C15H16N2O6
